US04983733
Under a nitrogen blanket, a 2.0 g sample of dl-cis-2-(4-methoxyphenyl)-2,3-dihydro-3-hydroxy-1,5-benzothiazepin-4(5H)-one (6.8 mmol) was refluxed neat with 20 mL of thionyl chloride (27.6 mmol) for approximately 2 hours. Then, 50 mL of hexane and about 20 mL of ether were added, and solid product was filtered off. The solid was dried under vacuum to obtain 1.4 g of 2-(4-methoxyphenyl)-3-chloro-1,5-benzothiazepin-4(5H)-one (66 percent yield of theory).

reactant | cis-2-(4-methoxyphenyl)-2,3-dihydro-3-hydroxy-1,5-benzothiazepin-4(5H)-one | 6.8 mmol | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC=C2 | C16H15NO3S
reactant | thionyl chloride | 27.6 mmol, 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | hexane | 50 mL | CCCCCC | C6H14
solvent | ether | about 20 mL | CCOCC | C4H10O
product | 2-(4-methoxyphenyl)-3-chloro-1,5-benzothiazepin-4(5H)-one | 1.4 g, 66 percent yield | COC1=CC=C(C=C1)C=1SC2=C(NC(C1Cl)=O)C=CC=C2 | C16H12ClNO2S
